US05352684
T. 3-[6-(4,4-diphenyl-1-piperidinyl)hexanoyl]1,4,5,6,7,8-hexahydro-2-methyl-4-(3-nitrophenyl)5-oxo-quinoline
6.6 g (16 mmol) 3-(6-chlorohexanoyl)-1,4,5,6,7,8,-hexahydro-2-methyl-4-(3-nitrophenyl) 5-oxo-quinoline and 9 g( 32 mmol) 4,4-diphenylpiperidine hydrochloride are boiled under reflux with 2.5 g (16 mmol) sodium iodide and 7 g (66 mmol) sodium carbonate in 150 ml acetone for 6 days. The mixture is filtered and concentrated, and the residue is taken up in 150 ml ethyl acetate. The mixture is extracted by shaking with 40 ml sodium thiosulphate solution (5%). The organic phase is dried over magnesium sulphate, filtered and concentrated. The residue is chromatographed over silica gel with toluene/acetone=8/2. The title compound is obtained as a yellow oil. Yield: 8 g (82%).

reactant | 3-(6-chlorohexanoyl)-1,4,5,6,7,8,-hexahydro-2-methyl-4-(3-nitrophenyl) 5-oxo-quinoline | 16 mmol, 6.6 g | ClCCCCCC(=O)C1=C(NC=2CCCC(C2C1C1=CC(=CC=C1)[N+](=O)[O-])=O)C | C22H25ClN2O4
reactant | 4,4-diphenylpiperidine hydrochloride | 32 mmol | Cl.C1(=CC=CC=C1)C1(CCNCC1)C1=CC=CC=C1
reactant | sodium iodide | 16 mmol, 2.5 g | [I-].[Na+]
reactant | sodium carbonate | 66 mmol, 7 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetone | 150 ml | CC(=O)C | C3H6O
product | 3-[6-(4,4-diphenyl-1-piperidinyl)hexanoyl]1,4,5,6,7,8-hexahydro-2-methyl-4-(3-nitrophenyl)5-oxo-quinoline | C1(=CC=CC=C1)C1(CCN(CC1)CCCCCC(=O)C1=C(NC=2CCCC(C2C1C1=CC(=CC=C1)[N+](=O)[O-])=O)C)C1=CC=CC=C1 | C39H43N3O4
